US06136831
The procedure of Example 9 was repeated using 1-(7-chlorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[5-(7-chlorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide. NMR(DMSO-d6) δ: 7.24 (1H, t, J=54.1 Hz), 7.56-7.68 (5H, m), 7.80 (2H, d, J=8.6 Hz), 7.91-7.97 (3H, m); mp 238-239° C. (ethanol)

reactant | 1-(7-chlorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | ClC1=CC=CC=2N=C(SC21)C(CC(C(F)F)=O)=O | C11H6ClF2NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(7-chlorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | ClC1=CC=CC=2N=C(SC21)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)F | C17H11ClF2N4O2S2
